Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
hematemesis
 
Major Surgical or Invasive Procedure:
EGD
 
History of Present Illness:
Mr. ___ is a ___ year-old male with end-stage liver disease 
secondary to alcohol abuse and chronic hepatitis C, never 
treated due to ongoing ETOH use, previously complicated by 
bleeding esophageal varices status post banding, portal 
hypertension, non-bleeding gastric varices, portal vein thrombus 
(not anticoagulated because of compliance issues and continued 
alcohol use). He developed abdominal pain yesterday morning 
which was followed by about 3 episodes of bright red vomitus, 
which he quantifies at a half ___.  He also had several 
episodes of melena daily starting yesterday.    On the morning 
of presentation, he had 3 episodes of bright red blood per 
rectum with continued diffuse abdominal pain. He endorses chills 
but denies cough, dysuria or headache/confusion. He has been 
lightheaded at times but denies chest pain or palpitations. His 
last EGD ___ showed portal gastropathy and gastric fundal 
varix. He has been compliant with his Nadolol.
.
Upon presentation to the ED, his initial VS were T 99.3, HR82, 
BP133/76, RR16, Sat100RA. On exam, he had diffuse abdominal pain 
worse in the RLL (s/p appendectomy). Also with G+ black stool, 
no ascites, mild baseline tremor, w/ mild asterixis, oriented X 
3. He was found to have a hematocrit to 27 from a baseline in 
the low to mid ___.  He refused NGT. He received 2LNS, IV PPI 
bolus and gtt, along with octreotide gtt, 10unit vitamin K, and 
ciprofloxacin.   He was crossmatched 4 units, got a unit of 
platelets for plt 40, a unit of FFP (INR 2.1), and will be sent 
with a pRBCs.  Lactate elevated to 2.4.  Prior to transfer to 
the MICU, his VS were T98.6 P83 BP107/65  RR14 99RA.  
.  
On arrival to the MICU, his initial VS were:T100.2 P91 BP10___/68 
RR15 Sat98RA.  He was comfortable in no acute distress, noting 
only diffuse abdominal pain.  No recent hematemesis since 
arriving from the MICU.  States that he has been drinking ___ 
beers nightly, with last drink on ___.  Otherwise denying 
fevers, chills, dysuria, hematuria, malaise, weakness, weight 
gain, increased girth.  No recent NSAIDs or anticoagulants.  
He's been compliant with nadolol.
.
Of note, he was admitted for consideration of TIPS in ___ 
after routine ___ screening CT revealed a portal vein thrombus.  
The decision was made not to proceed with either TIPS or 
anticoagulation due to ongoing ETOH abuse and suspected 
inabiltiy to comply with coumadin.
.
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath, or wheezing. 
Denies chest pain, chest pressure, palpitations, or weakness. 
Denies nausea, vomiting, diarrhea, constipation, abdominal pain, 
or changes in bowel habits. Denies dysuria, frequency, or 
urgency. Denies arthralgias or myalgias. Denies rashes or skin 
changes.  
.  

 
Past Medical History:
-Cirrhosis c/b esophageal varices, no h/o ascites
-HCV, chronic
-EtOH abuse, ongoing
-portal vein thrombosis ___, not anticoagulated

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
On Admission:
Vitals: T100.2 P91 BP105/68 RR15 Sat98RA  
General: jaundice, Alert, orientedx3, resting comfortably, no 
acute distress  
HEENT: MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: mild tenderness to palpation diffusely, but soft, 
non-distended, bowel sounds present, no rebound tenderness or 
guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
Neuro: answering questions appropriately, AAOx3, moving all 
extremities 
.  
Discharge PE:
Vitals: 99.0, 94/56, 70, 99%RA
General: Alert, orientedx3, resting comfortably, no acute 
distress
HEENT: MMM, oropharynx clear
Neck: supple, JVP not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: soft, nontender, nondistended, +BS
GU: no foley
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: answering questions appropriately, AAOx3, moving all 
extremities
.
 
Pertinent Results:
Admission labs:
___ 01:40PM BLOOD WBC-3.6* RBC-2.74* Hgb-9.0* Hct-27.1* 
MCV-99* MCH-32.7* MCHC-33.1 RDW-19.6* Plt Ct-40*
___ 08:00PM BLOOD WBC-2.3* RBC-2.03*# Hgb-6.5*# Hct-20.1*# 
MCV-99* MCH-31.9 MCHC-32.2 RDW-20.1* Plt Ct-44*
___ 12:50AM BLOOD Hct-25.0*
___ 01:40PM BLOOD ___ PTT-37.8* ___
___ 08:00PM BLOOD ___ PTT-40.4* ___
___ 05:51AM BLOOD ___ PTT-36.2* ___
___ 01:40PM BLOOD Glucose-107* UreaN-11 Creat-0.6 Na-138 
K-3.9 Cl-104 HCO3-29 AnGap-9
___ 05:51AM BLOOD Glucose-77 UreaN-8 Creat-0.7 Na-140 K-3.3 
Cl-108 HCO3-25 AnGap-10
___ 03:03PM BLOOD Glucose-97 UreaN-7 Creat-0.6 Na-138 
K-3.0* Cl-103 HCO3-25 AnGap-13
___ 01:40PM BLOOD ALT-33 AST-102* LD(LDH)-284* AlkPhos-134* 
TotBili-5.4* DirBili-2.5* IndBili-2.9
___ 05:51AM BLOOD ALT-23 AST-68* AlkPhos-86 TotBili-4.3*
___ 05:13AM BLOOD ALT-27 AST-78* AlkPhos-88 TotBili-4.7*
___ 01:40PM BLOOD Albumin-2.4* Calcium-8.1* Phos-2.8 
Mg-1.5*
___ 05:51AM BLOOD Calcium-7.0* Phos-3.2 Mg-1.2*
___ 03:03PM BLOOD Calcium-7.3* Phos-3.6 Mg-2.2
.
Discharge labs:
___ 06:05AM BLOOD WBC-2.5* RBC-3.24* Hgb-10.1* Hct-30.9* 
MCV-95 MCH-31.2 MCHC-32.8 RDW-20.4* Plt Ct-51*
___ 06:00AM BLOOD WBC-3.3* RBC-3.15* Hgb-10.1* Hct-30.5* 
MCV-97 MCH-32.0 MCHC-33.1 RDW-20.9* Plt Ct-44*
___ 07:00AM BLOOD WBC-3.6* RBC-3.12* Hgb-9.7* Hct-30.2* 
MCV-97 MCH-31.2 MCHC-32.3 RDW-20.6* Plt Ct-45*
___ 06:05AM BLOOD ___
___ 06:00AM BLOOD ___ PTT-38.6* ___
___ 07:00AM BLOOD ___
___ 05:13AM BLOOD Glucose-105* UreaN-10 Creat-0.7 Na-137 
K-3.0* Cl-102 HCO3-28 AnGap-10
___ 06:05AM BLOOD Glucose-80 UreaN-5* Creat-0.5 Na-130* 
K-3.1* Cl-96 HCO3-26 AnGap-11
___ 06:00AM BLOOD Glucose-75 UreaN-6 Creat-0.6 Na-132* 
K-3.4 Cl-101 HCO3-24 AnGap-10
___ 07:00AM BLOOD Glucose-88 UreaN-7 Creat-0.6 Na-133 K-3.5 
Cl-102 HCO3-25 AnGap-10
___ 05:13AM BLOOD ALT-27 AST-78* AlkPhos-88 TotBili-4.7*
___ 06:05AM BLOOD ALT-29 AST-83* AlkPhos-87 TotBili-4.6*
___ 07:00AM BLOOD ALT-28 AST-72* AlkPhos-116 TotBili-3.3*
___ 06:05AM BLOOD Albumin-2.4* Calcium-7.2* Phos-2.6* 
Mg-1.4*
___ 06:00AM BLOOD Calcium-7.3* Phos-2.3* Mg-1.6
___ 07:00AM BLOOD Albumin-2.5* Calcium-7.3* Phos-3.4 
Mg-1.5*
.
Abdomenal US: ___ (prelim)
Portal veins are patent, however there is reversal of flow 
throughout the 
portal system and of the splenic vein. Left lobe lesion stable 
in size c/w 
___. Cirrhosis, no sig ascites. 
  
Gallstones in gb neck, borderline gb thickness likely ___ 
cirrhosis. no 
sonographic murphys, cbd normal caliber. No bil dil. 
.
EGD:
Esophagus:  
 Other Scar from prior banding seen in lower esophagus.  
Stomach:  
 Lumen: A small size hiatal hernia was seen.  
 Mucosa: Erythema and congestion of the mucosa were noted in the 
whole stomach. These findings are compatible with portal 
gastropathy.  
 Protruding Lesions A single large varix was was seen in the 
stomach fundus. There were no stigmata of recent bleeding, 
however given the amount of blood and lack of other findings, 
decision made to inject with glue. 3 cc glue injected for 
hemostasis with success.  
 Other Blood and clots seen in the stomach fundus and body. It 
was too thick to suction.  
Duodenum: Normal duodenum. 
Impression: Small hiatal hernia
Scar from prior banding seen in lower esophagus.
Blood and clots seen in the stomach fundus and body. It was too 
thick to suction.
Erythema and congestion in the whole stomach compatible with 
portal gastropathy
Gastric varices (injection)
Otherwise normal EGD to third part of the duodenum 

 
Brief Hospital Course:
Mr. ___ is a ___ M with end stage liver disease due to 
chronic hepatitis C and ETOH intake, portal hypertension, portal 
vein thrombosis, here with upper GIB of likely variceal origin.
.
# UPPER GI BLEED: Patient presented after several episodes of 
bloody hematemesis and melena. Admission HCT below baseline at 
27 from ___. In the MICU, received 2unit plt and ___. Urgent 
EGD demonstrated a single large varix was was seen in the 
stomach fundus. There were no stigmata of recent bleeding, 
however given the amount of blood and lack of other findings, 
decision made to inject with 3 cc glue for hemostasis with 
success. Patient monitored in the MICU for goal HCT~25, INR<2, 
Plt>50 on octreotide and ppi ggt. Patient continued on Abx for 
ppx. Per Liver, if instability ensue, next step would be TIPS.  
The patient was transferred to the ET service, and while on the 
floor, his vital signs and crit were stable.  The patient was 
continued on nadolol and upon discharge, the patient's 
ceftriaxone for UGIB ppx was discontinued.  The patient was 
instructed how important it is to stop drinking alcohol.  He was 
seen by social work and given information for outpatient 
resources to help him to stop drinking.
.
# END STAGE LIVER DISEASE. Related to chronic hepatitis C and 
ETOH. Abd US with evidence of stable cirrhosis. Dopplers with 
reversal of flow secondary to cirrhosis rather than clot. 
Nadolol was initially held, but once patient was on the 
___ service, the patient was restarted on Nadolol.  The 
patient was instructed about the importance of stopping 
drinking, as his liver disease is continuing to progress.  While 
in the unit, the patient was showing some signs of 
encephalopathy, as he was becoming confused.  He was started on 
Lactulose while in the unit.  However,  on transfer to the 
floor, the patient's mental status had cleared up and returned 
to baseline.  The patient was discharged on lactulose PRN for 
confusion.
.
# ETOH ABUSE:  Patient with ___ drinks; he was initially 
started on CIWA protocol for ETOH withdrawal.  He was also 
continued on IV folate, thiamine, and multivitamin.  THe patient 
was seen by social work regarding his alcohol abuse.  The 
importance of alcohol cessation was reiterated. 
.
# PORTAL VEIN THROMBOSIS:  Never anticoagulated due to 
noncompliance and ongoing ETOH abuse.  Please continued to 
follow this as an outpatient. 
.  
Transitional Issues:
.
# outpatient follow-up: The patient is scheduled for an 
outpatient colonoscopy and EGD.  He also has follow up at the 
___, as well as with his PCP.  
 
Medications on Admission:
Nadolol 40 mg daily
Omeprazole daily
MVT daily
 
Discharge Medications:
1. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO TID:PRN 
as needed for confusion.
Disp:*3 bottles* Refills:*0*
2. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
3. nadolol 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
4. folic acid 1 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
5. thiamine HCl 50 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
primary diagnosis:
upper gastrointestinal bleed
alcholic cirrhosis
Hepatitis C infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
.
It was a pleasure taking care of you while you were hospitalized 
at ___.  You were admitted to the hospital because you were 
vomiting blood.  You were taken to the intensive care unit and 
an emergent scope was done and a camera was out down into your 
stomach.  We found that you had a bleed blood vessel (varix) 
that was causing you to vomit up blood.  We injected your varix 
with glue and the bleeding has stopped.
. 
You have been stable since the procedure and you have not bled.
.
It is VERY important that you stop drinking.  The reason you 
have your varix and these dilated blood vessels is because your 
heavy alcohol drinking has caused your liver to become sick.  
The more you drink, the sicker your liver is going to get and 
the more likely you will have another bleed.
.
It is also very important that you follow up in the liver clinic 
and with your primary care doctor.  You also are scheduled for 
for a colonoscopy and upper endoscopy on ___ a 
8 AM in the ___ building, third floor.
.
We made the following changes to your medications:
START Lactulose 30 ml as needed for when you are confused
 
Followup Instructions:
___